US07795262B2
XXIV. 6-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-2-Pyridazin-3-Yl-5,6,7,8-Tetrahydro-1,6-Naphthyridine (Scheme 15)
A mixture of 2-chloro-6-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-5,6,7,8-tetrahydro-1,6-naphthyridine (349 mg, 1 mmol), 3-(tributylstannyl)pyridazine (461 mg, 1.25 mmol) and Pd(PPh3)4 (116 mg, 0.1 mmol) in toluene (15 mL) is degassed by argon and heated at 110° C. in a sealed tube overnight. The mixture is cooled and saturated KF solution (10 mL) is added. The mixture is stirred at rt for 30 min, and then the layers are separated. The aqueous layer is extracted with EtOAc (15 ml) and the combined extracts are dried and evaporated. The residue is purified by PTLC to give the title compound as a white solid. MS (M+1): 393.2; 1H NMR (δ, CDCl3): 9.77 (m, 1H), 9.26 (dd, 1H), 8.05 (dd, 1H), 7.64 (d, 1H), 7.48 (d, 1H), 3.79 (s, 2H), 3.65 (q, 4H), 3.43 (s, 2H), 3.13 (t, 2H), 2.96 (t, 2H), 2.64-2.74 (m, 1H), 2.30 (q, 4H), 1.64-2.06 (m, 6H).

reactant | 2-chloro-6-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-5,6,7,8-tetrahydro-1,6-naphthyridine | 1 mmol, 349 mg | ClC1=NC=2CCN(CC2C=C1)CC(=O)N1CCN(CC1)C1CCC1 | C18H25ClN4O
reactant | 3-(tributylstannyl)pyridazine | 1.25 mmol, 461 mg | C(CCC)[Sn](C=1N=NC=CC1)(CCCC)CCCC
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.1 mmol, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-2-Pyridazin-3-Yl-5,6,7,8-Tetrahydro-1,6-Naphthyridine | C1(CCC1)N1CCN(CC1)C(CN1CC=2C=CC(=NC2CC1)C=1N=NC=CC1)=O | C22H28N6O
